US09119868B2
Step 7: 5-Cyclopropyl-2-(4-fluorophenyl)-6-(N-(1-hydroxy-3,4-dihydro-1H-benzo[c][1,2]oxaborinin-6-yl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide
To a deoxygenated solution of 6-(N-(4-bromo-3-(2-hydroxyethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (100 mg, 0.166 mmol) in 1,4-dioxane (4 mL) and water (1.0 mL) was added K2CO3 (92 mg, 0.665 mmol) followed by 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (84 mg, 0.33 mmol) and PdCl2(dppf) (12.16 mg, 0.017 mmol) under nitrogen purging. Then the reaction mixture was heated to 70° C. for 2 h. The mixture was cooled to RT and filtered to remove solids. The filtrate was diluted with water and extracted with EtOAc. The EtOAc solution was washed with water (1×), dried over sodium sulfate, and concentrated to dryness at reduced pressure. The crude product was purified by RP-HPLC (C18, MeCN/water/0.1% formic acid) to afford the title compound in 65% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.89 (dd, J=8.60, 5.28 Hz, 2H) 7.67-7.71 (m, 1H) 7.57-7.62 (m, 1H) 7.45-7.49 (m, 1H) 7.13-7.25 (m, 4H) 5.79 (d, J=3.91 Hz, 1H) 4.31 (s, 1H) 4.19 (t, J=5.96 Hz, 2H) 3.29 (s, 3H) 3.01 (d, J=4.89 Hz, 3H) 2.89 (t, J=5.86 Hz, 2H) 2.02-2.13 (m, 1H) 1.02 (br. s., 1H) 0.83 (br. s., 2H) 0.61 (br. s., 1H). LCMS (m/z, ES+)=549 (M+H+).

reactant | 6-(N-(4-bromo-3-(2-hydroxyethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.166 mmol, 100 mg | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)CCO | C28H26BrFN2O5S
reactant | K2CO3 | 0.665 mmol, 92 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.33 mmol, 84 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.0 mL | O | H2O
catalyst | PdCl2(dppf) | 0.017 mmol, 12.16 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-Cyclopropyl-2-(4-fluorophenyl)-6-(N-(1-hydroxy-3,4-dihydro-1H-benzo[c][1,2]oxaborinin-6-yl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide | 65% yield | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC2=C(B(OCC2)O)C=C1 | C28H26BFN2O6S
